Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
mercury / swordfish
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH HTN, HLD, CP with negative ETT Echo in ___, BIBEMS
from outpatient providers office with intermittent, achey
left-sided chest pain, which is improved with sitting forward 
and
worsened upon laying back. Patient received nitro x 2 at OSH due
to hypertension, no relief. Per EMS report the patient also
became bradycardic to the ___ which required fluids and 
atropine
x 1 with rates improved to the 70's. The patient was seen at ___ 
a
few days prior with TW inversions in anterior leads. Patient is
currently complaining of left chest pain, but denies respiratory
difficulty, palpitations, cough, recent illness, GI or GU
symptoms. 
  
 
In the ED  
 - Initial vitals:  96.2T, 78, 103/70, 16
 - Exam notable for: Chest: CTAB, tender to palpation to site of
maximal pain.
 - EKG: ?flattening t waves (outside EKG prior to presentation:
"RSR' pattern with flipped TWs across precordium)
 - Labs/studies notable for: Troponin-t <0.01 x 3, D dimer
negative 
 - Patient was given:  IV morphine x , IV ondansetron x 1
 - Vitals on transfer:  102/65, HR68, RR18
 
On the floor patient reports that her chest pain is improved.
Still has some localized area of chest pain, but has not as
painful since morphine. Currently denying any nausea, vomiting.
Reports she does not have any chest pain with activity, as she
regularly plays tennis and has not had issues. Does feel that
this pain is different from her prior history of esophageal
spasms. 
 
REVIEW OF SYSTEMS:  
As above otherwise negative
 
Past Medical History:
1. Hypertension.
2. Hyperlipidemia.
3. Overweight.
4. Atypical chest pain ___ --> stress ECHO showing only 1+ 
MR.
___ to be related to esophageal spasm.
5. Reactive airways disease. 
6. Obstructive sleep apnea. 
7. GERD. 
8. Diverticulosis.
9. Colonic adenoma.
10. Colitis 
11. NAFLD 
13. A1c 5.8%. 
14. Osteoarthritis. Hands, feet.
15. Osteopenia. 
16. ECZEMA   
17. SMELL DISTURBANCE   
___ FIBROSIS   
19. NEPHROLITHIASIS 
20. LYME DISEASE
 
Social History:
___
Family History:
COLON CANCER 
PNEUMONIA 
ORAL CANCER   
MYOCARDIAL INFARCTION
ALCOHOLISM
OSTEOARTHRITIS
DIABETES MELLITUS
 
Physical Exam:
 ADMISSION PHYSICAL EXAMINATION:  
 ===============================  
 VITALS:  T98.1F BP 144 / 88 HR76 RR20  
 GENERAL: Well-developed, well-nourished. NAD. 
 PSYCH: Mood, affect appropriate.
 MENTAL STATUS: AO x 3 
 HEENT: NCAT. EOMI.  
 CARDIAC:RRR, normal S1, S2. No murmurs/rubs/gallops. Point
tenderness to palpation of left lower chest wall.
 LUNGS:  Resp were unlabored, no accessory muscle use. No
crackles, wheezes or rhonchi.  
 EXTREMITIES: No peripheral edema.   
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 

 DISCHARGE PHYSICAL EXAMINATION:  
 ===============================  
24 HR Data (last updated ___ @ 1510)
    Temp: 98.3 (Tm 98.3), BP: 118/68 (95-144/60-88), HR: 72
(63-77), RR: 18 (___), O2 sat: 93% (92-96%), O2 delivery: RA,
Wt: 174.8 lb/79.29 kg (174.8-177.69) 
Fluid Balance (last updated ___ @ 1155)
  Last 8 hours  Total cumulative 240ml
    IN: Total 240ml, PO Amt 240ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 1110ml
    IN: Total 1110ml, PO Amt 1110ml
    OUT:  Total 0ml, Urine Amt 0ml

GENERAL: Lying in bed. Speaking to me in no acute distress. 
HEENT: NCAT. EMOI.
NECK: No JVD.
CARDIAC: S1/S2, regular, ___ systolic murmur at RUSB. No
carotid bruits. Brisk and strong carotid upstrokes. No carotid
bruits. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
EXTREMITIES: No lower extremity edema. Extremities are warm. 
SKIN: Warm. Dry. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:26PM BLOOD WBC-5.4 RBC-4.32 Hgb-14.1 Hct-40.6 MCV-94 
MCH-32.6* MCHC-34.7 RDW-12.1 RDWSD-41.8 Plt ___
___ 02:26PM BLOOD Glucose-112* UreaN-23* Creat-0.8 Na-140 
K-4.5 Cl-101 HCO3-23 AnGap-16

DISCHARGE LABS
==============
___ 06:35AM BLOOD WBC-5.5 RBC-3.99 Hgb-12.9 Hct-38.7 MCV-97 
MCH-32.3* MCHC-33.3 RDW-12.3 RDWSD-43.9 Plt ___
___ 06:35AM BLOOD Glucose-104* UreaN-14 Creat-0.6 Na-140 
K-4.3 Cl-103 HCO3-26 AnGap-11

CARDIAC MARKERS
===============
___ 02:26PM BLOOD cTropnT-<0.01
___ 11:00AM BLOOD proBNP-21
___ 11:00AM BLOOD cTropnT-<0.01
___ 03:51PM BLOOD CK-MB-2
___ 03:51PM BLOOD cTropnT-<0.01

MICRO
=====
None

IMAGING/REPORTS
===============
___ Stress Echo
Excellent functional exercise capacity with no ischemic ECG 
changes and no evidence of inducible ischemia on echo.

___ ECG
Normal sinus

___ CXR
No acute cardiopulmonary process.

___ ECG
Normal sinus
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
___ PMH HTN, HLD, CP with negative ETT Echo in ___, BIBEMS 
from outpatient providers office with intermittent, achy 
left-sided chest pain admitted for rule out cardiac etiology of 
her atypical chest pain whose studies were negative for ACS and 
stress test was negative for ischemia. It was determined that 
her chest pain is not cardiac in nature.

====================
ACUTE MEDICAL ISSUES
====================
#Atypical Chest Pain
History of chest pain with negative ETT Echo in ___. Patient 
has history of GERD/esophageal spasms. Positional chest pain 
with tenderness to palpation. EKG less concerning (outside 
hospital EKG with TW inversions in anterior leads), troponins 
negative x 3. Less consistent with ACS. Most likely 
musculoskeletal in etiology. Given risk factors and bout of 
bradycardia it is reasonable to obtain stress test. Her stress 
test was negative for signs of ischemia. We continued her PPI 
and placer her on acetaminophen and oxycodone prn pain.

======================
CHRONIC MEDICAL ISSUES
======================
#Hypothyroidism:
-Levothyroxine 100

#HTN
-HCTZ 12.5, losartan 50 BID

#GERD with esophageal spasms:
-Omeprazole 20 BID

#Cardiovascular:
-ASA 81, rosuvastatin 20

===================
TRANSITIONAL ISSUES
===================
[ ] Please get a non urgent TTE as an outpatient to look for 
structural abnormalities.

[ ] Patient's stress test was negative for ischemia. Please 
follow up regarding the status of her atypical chest pain; MSK 
vs GERD.

- New Meds: None
- Stopped/Held Meds: None
- Changed Meds: None
- Post-Discharge Follow-up Labs Needed: None
- Incidental Findings: None
- Discharge weight: 174.8 lb/79.29 kg
- Code Status: Full presumed
- Contact Information:
HCP: ___ ___

Discharge time 20 min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO BID 
2. Omeprazole 20 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  Losartan Potassium 50 mg PO BID  
5.  Omeprazole 20 mg PO BID  
6.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Noncardiac Chest Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you had chest pain and 
we wanted to make sure that there was nothing wrong with you 
heart.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
While you were in the hospital we ran many tests including an 
EKG that showed you heart had a normal rhythm and a stress test 
that was negative for any abnormality's related to damage to 
your heart.  

WHAT SHOULD YOU DO WHEN YOU GO HOME?
-Carefully review the attached medication list as we may have 
made changes to your medications.

Sincerely, 

___, MD, PhD
 
Followup Instructions:
___